US08754226B2
Tert-butyl 4-((3S,4S)-4-(benzyloxy)-3-(4-bromo-2-fluorophenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (300 mg, 0.532 mmol) was dissolved in DMSO (5 mL) and degassed for 10 minutes. Sodium methanesulfinate (81.5 mg, 0.799 mmol) and trans-cyclohexane-1,2-diamine (25.6 μL, 0.213 mmol) were added, followed by Cu(I) triflate benzene complex (26.8 mg, 0.0532 mmol) and the reaction was heated to 110° C. overnight. The reaction was cooled, partitioned between water and EtOAc, extracted with EtOAc, washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified over silica gel (100% EtOAc) to afford tert-butyl 4-((3S,4S)-4-(benzyloxy)-3-(2-fluoro-4-(methylsulfonyl)phenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (160 mg, 0.284 mmol, 53.4% yield).

reactant | Tert-butyl 4-((3S,4S)-4-(benzyloxy)-3-(4-bromo-2-fluorophenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 0.532 mmol, 300 mg | C(C1=CC=CC=C1)O[C@@H]1[C@@H](C(N(C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O)OC1=C(C=C(C=C1)Br)F | C27H32BrFN2O5
reactant | Sodium methanesulfinate | 0.799 mmol, 81.5 mg | CS(=O)[O-].[Na+]
reactant | trans-cyclohexane-1,2-diamine | 0.213 mmol, 25.6 μL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | tert-butyl 4-((3S,4S)-4-(benzyloxy)-3-(2-fluoro-4-(methylsulfonyl)phenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 0.284 mmol, 160 mg, 53.4% yield | C(C1=CC=CC=C1)O[C@@H]1[C@@H](C(N(C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O)OC1=C(C=C(C=C1)S(=O)(=O)C)F | C28H35FN2O7S
